US05143643
Then, 180 g of 85% KOH was dissolved in 180 ml of water, and 190 g of the above ethyl 5-methoxy-2-ethoxycarbonylcaprylate was dropped at 20°-30° C. in 60 min., followed by 30 min. of stirring and 2 hours of refluxing. After cooling, the mixture was held below 20° C., and a solution of 288 g of conc. sulfuric acid in 406 g of water was dropped in 90 min., followed by 30 min of stirring and 3 hours of refluxing at 90°-95° C. After being cooled to room temperature, the product was extracted with ether. The ether layer was washed with 5%-NaOH aqueous solution and added to the aqueous layer. The aqueous layer was acidified with 6N-hydrochloric acid and extracted with ether, followed by washing with saturated saline water, distilling-off of the ether and vacuum distillation to obtain 53 g of 5-methoxycaprylic acid in the form of a colorless clear liquid.

reactant | KOH | 180 g | [OH-].[K+]
reactant | ethyl 5-methoxy-2-ethoxycarbonylcaprylate | 190 g | COC(CCC(C(=O)OCC)C(=O)OCC)CCC | C14H26O5
reactant | sulfuric acid | 288 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 180 ml | O | H2O
solvent | water | 406 g | O | H2O
product | 5-methoxycaprylic acid | 53 g | COC(CCCC(=O)O)CCC | C9H18O3
